US09416138B2
3-(2-Cyclopropyl-2-hydroxyethoxy)propane-1,2-diol
Dissolve 1-cyclopropyl-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)ethanol (1.1 g, 5.09 mmol) in MeOH (20 mL) and add HCl (1 M in Et2O; 18 mL, 18 mmol). Stir at ambient temperature for 3 hours. Concentrate under reduced pressure to provide the title product (880 mg, 98.2%) as a colorless oil. MS (m/z): 199 (M+23).

reactant | 1-cyclopropyl-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)ethanol | 5.09 mmol, 1.1 g | C1(CC1)C(COCC1OC(OC1)(C)C)O | C11H20O4
reactant | HCl | 18 mmol, 1 M, 18 mL | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 3-(2-Cyclopropyl-2-hydroxyethoxy)propane-1,2-diol | 880 mg, 98.2% | C1(CC1)C(COCC(CO)O)O | C8H16O4
